* source LF_GEN
X_Q1         N00379 N00197 N00241 awb2n3904 PARAMS:                            
+                 
X_Q2         0 N00197 N00241 awb2n3906 PARAMS:                                 
+            
R_R1         N00448 N00197  1k TC=0,0 
C_C1         N00448 N00197  22n  TC=0,0 
L_L1         N00305 0  1000uH  
C_C2         N00241 N00305  10u  TC=0,0 
V_V1         N00379 0 DC 15V  
V_V2         N00448 0  
+PULSE 0V 5V 0 0 0 2usec 20usec
C_C3         0 N00379  47u  TC=0,0 
